US07504403B2
1-Bromo-3-(2-nitro-propenyl)-benzene:
A suspension of 3-bromo-benzaldehyde (2.5 g, 13.5 mmol), ammonium acetate (1.09 g, 14.2 mmol), and nitroethane (250 mL) was heated to reflux overnight. Solvent removed under vacuum then residue partitioned between ethyl acetate and saturated sodium chloride. Concentrated organic purified on silica and isolated as a yellow oil. 1H NMR (CDCl3) s (3H, 2.44 ppm), m (2H, 7.35 ppm), m (2H, 7.55 ppm) s (1H, 8.00 ppm).

reactant | 3-bromo-benzaldehyde | 13.5 mmol, 2.5 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ammonium acetate | 14.2 mmol, 1.09 g | C(C)(=O)[O-].[NH4+]
reactant | nitroethane | 250 mL | [N+](=O)([O-])CC | C2H5NO2
product | 1-Bromo-3-(2-nitro-propenyl)-benzene | BrC1=CC(=CC=C1)C=C(C)[N+](=O)[O-] | C9H8BrNO2
